US06214873B1
(1) Synthesis of 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-hydroxy-7-phenylheptyl)phenyl)ethyl)propane
2-Acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-formylphenyl)ethyl)propane (3.0 g) and 1-bromo-6-phenylhexane (3.1 g) were reacted and treated in the same manner as in Working example 1(6) to give the title compound (2.6 g) as a pale yellow oily substance.

reactant | 2-Acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-formylphenyl)ethyl)propane | 3.0 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C=O | C26H47NO4Si2
reactant | 1-bromo-6-phenylhexane | 3.1 g | BrCCCCCCC1=CC=CC=C1 | C12H17Br
product | 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-hydroxy-7-phenylheptyl)phenyl)ethyl)propane | 2.6 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(CCCCCCC1=CC=CC=C1)O | C38H65NO4Si2
